US04349378
N-(2,2-dimethoxypropyl)-2'-chloro-6'-methyl-methanesulphonanilide
To a solution of N-(2-oxopropyl)-2'-chloro-6'-methyl-methanesulphonanilide (5.7 g) in methanol (80 ml) was added 4-toluenesulphonic acid (0.2 g), followed by trimethyl orthoformate (6.65 ml). The mixture was stirred at room temperature for 24 hours, then allowed to stand for 6 days. The solution was poured into dilute sodium bicarbonate solution, and the precipitated solid was collected by filtration, washed with water, and dried to give an off-white coloured solid of melting point 84°. Yield 6.0 g.

reactant | N-(2-oxopropyl)-2'-chloro-6'-methyl-methanesulphonanilide | 5.7 g | O=C(CN(C1=C(C=CC=C1C)Cl)S(=O)(=O)C)C | C11H14ClNO3S
reactant | 4-toluenesulphonic acid | 0.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | trimethyl orthoformate | 6.65 ml | C(OC)(OC)OC | C4H10O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 80 ml | CO | CH4O
product | N-(2,2-dimethoxypropyl)-2'-chloro-6'-methyl-methanesulphonanilide | COC(CN(C1=C(C=CC=C1C)Cl)S(=O)(=O)C)(C)OC | C13H20ClNO4S
